Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
EGD with clipping of polypectomy site
 
History of Present Illness:
Mr. ___ is an ___ yo man with a history of DMII with renal 
complications and CKD, HTN, and a history of prostate CA s/p 
radiation (___), who presents with melena after undergoing a 
EUS and had a 4cm pedunculated polyp with thick stalk and 
additional 1cm polyp removed.  He report no complications at the 
time of the procedure.  Howevere this morning he woke felt 
lightheaded and develop melena.  EMS was call and on arrival he 
had an SBP in the ___. 
 
In the ED, the initial vitals were: 98.6 80 88/49 20 100%.  2 18 
PIV were established, he was given 2L of NS.  GI assess the 
pateint and recommend MICU transfer with plan to EGD.  The 
patient was started on a PPI gtt after initial PPI bolus.  A CXR 
did not show free air.  His vitals prior to transfer were: 87 
104/54 16 100% on RA.  2 units of pRBC were ordered, but not 
given. 

On arrival to the MICU, the patient vomited blood. However, he 
was normotensive and HR were 90’s.  An NGT was promptly placed 
and  ~500cc of dark blood/clots were suctioned.  GI was 
immediately notified of his arrival.
 
Past Medical History:
-DM (diabetes mellitus), type 2 with renal complications  
-Chronic renal insufficiency, stage II (mild)    
-Vitamin D deficiency
-Colonic adenoma (sigmoid)  
-Impotence ___ erectile dysfunction  
-History of prostate cancer, s/p radiation therapy
-Osteoarthrits of the left knee 
-Hepatitis C - no treatment, but liver was biopsied per patient
-Open angle glaucoma  
-Hypertension 
-Positive PPD 
-History of gallstones
-Cataracts bilaterally, with surgical removal in L eye. Patient 
states he has a L dilated pupil since the surgery 
 
Social History:
___
Family History:
maternal grandmother - DM
mother - DM, died of cervical cancer
father - healthy as far as patient is aware
sister - deceased, from complications of DM
 
Physical Exam:
Vitals: T: 98.8  BP:151/129  P: 113 R: 20  O2:98%  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, mild epigastric tenderness, non-distended, bowel 
sounds present, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred, finger-to-nose intact

 
Pertinent Results:
Admission labs:
___ 07:45AM BLOOD WBC-9.3 RBC-2.58*# Hgb-7.2* Hct-21.8* 
MCV-85# MCH-28.0# MCHC-33.1 RDW-17.6* Plt ___
___ 11:53AM BLOOD WBC-9.6 RBC-2.22* Hgb-6.5* Hct-19.3* 
MCV-87 MCH-29.1 MCHC-33.4 RDW-16.9* Plt ___ (after 2 units 
blood)
___ 07:45AM BLOOD ___ PTT-25.8 ___
___ 11:53AM BLOOD ___
___ 07:45AM BLOOD Glucose-221* UreaN-74* Creat-2.1* Na-143 
K-4.7 Cl-109* HCO3-22 AnGap-17
___ 07:45AM BLOOD cTropnT-0.02*
___ 11:53AM BLOOD Calcium-7.6* Phos-3.8 Mg-1.9
___ 07:58AM BLOOD Lactate-2.3*
 
Brief Hospital Course:
___ man whose PMH includes DMII, CKD stage III, HTN, and 
prostate CA s/p radiation (___), who was admitted to the FICU 
on ___ with melena and symptomatic hypotension after EGD with 
gastric polypectomy. Path showed focus of cancer but margins 
clear. GI team following, clipped the polypectomy site. Patient 
received total of 7U pRBCs, 4U FFP, and 1U platelets.  
Stabilized on protonix gtt, transitioned to omeprazole.  He was 
transferred to the medical floor on ___. 

# UGIB: He had more melena and received 3U PRBCs on ___. Hct 
stable ~30. On ___ he was noted to have abdominal distension, 
and KUB showed distended air-filled sigmoid. CT scan ordered to 
r/o sigmoid volvulus, which was negative. Colorectal Surgery was 
consulted and recommended clear liquids with bowel regimen given 
fecal loading. On ___ am he had a maroon liquid stool, which 
was the first BM he had in two days. Bowel regimen was 
discontinued. Diet was advanced. He remained asymptomatic and 
hemodynamically stable with Hct ~32. Continue PPI BID. No plans 
from GI to repeat EGD this admission unless clinically 
deteriorates.
# acute blood loss anemia: s/p total 10U PRBCs but now 
clinically stable last few days
# RUE cellulitis with cephalic vein thrombophlebitis: much 
improved on empiric vancomycin (started ___, discontinued on 
___, continue warm packs
# Fever: no other localizing signs/sx besides above cellulitis, 
resolved; no abx as of today. Cultures negative or NGTD, 
including stool and C diff.
# HTN, CKD stage III: stable on amlodipine 5mg; restarted home 
lasix & lisinopril, given GIB resolved. Creatinine stable.
# DMII: tolerating regular diet; there was a note to resume 
glipizide when tolerating regular diet, but I do not see record 
of glipizide in PAML or in Atrius records, and pt is not aware 
of it. Rarely needed insulin on ISS. Monitor off of insulin.

EXTERNAL TRANSITIONAL ISSUES
- GI will call to reschedule EGD for remaining gastric polyps, 
about 2 months from last EGD
 
Medications on Admission:
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
4. Omeprazole 20 mg PO DAILY 
5. Pilocarpine 4% 1 DROP RIGHT EYE Q6H 
6. Simvastatin 20 mg PO DAILY 
7. Tamsulosin 0.4 mg PO DAILY 
9. Ferrous Sulfate 325 mg PO DAILY 
10. Amlodipine 10 mg PO DAILY 
11. Aspirin 325 mg PO DAILY 
12. cod liver oil *NF* 1,250-135 unit Oral daily 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
3. Ferrous Sulfate 325 mg PO TID 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
5. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0
6. Pilocarpine 4% 1 DROP RIGHT EYE Q6H 
7. Simvastatin 20 mg PO DAILY 
8. Tamsulosin 0.4 mg PO HS 
9. brimonidine *NF* 0.2 % ___ bid 
10. Lisinopril 5 mg PO DAILY 
11. GlipiZIDE 2.5 mg PO BID 
RX *glipizide 5 mg 0.5 (One half) tablet(s) by mouth bid with 
meals Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
gi bleed
acute blood loss anemia
chronic kidney disease stage 3
dm2 controlled with complications
hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
you were hospitalized with GI bleeding from your polypectomy 
site in your stomach, you required multiple blood transfusions 
and endoscopy with a clip placed on this bleeding site.

a new medication includes a higher dose of prilosec twice a day
also a new medicine for your diabetes includes glipizide to take 
twice a day with breakfast and dinner, but DO NOT take this 
medicine if you are fasting or not eating well or if you have 
low blood sugar

we stopped your lasix and lisinopril because of mild renal 
dysfunction and normal blood pressure at this time.  resume 
these meds only under direction of your PCP

avoid aspirin, nsaids and coumadin at this time.

GI will call you to reschedule an endoscopy for the remaining 
gastric polyps about 2 months after your last EGD
 
Followup Instructions:
___